Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / milk
 
Attending: ___
 
Chief Complaint:
Nausea, Vomiting, Diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with recently
diagnosed metastatic pancreatic adenocarcinoma complicated by
peritoneal carcinomatosis and malignant ascites requiring
frequent paracentesis, biliary obstruction s/p metal stent
placement, and left portal vein partial thrombosis on ___ 
who
presents with nausea/vomiting and diarrhea.

The patient has had progressive PO intake due to nausea for many
weeks. Then, after starting C1 of FOLFIRINOX on ___ and since
has had progressive nausea, vomiting and diarrhea. Due to this
she has been unable to eat. Her vomit and diarrhea has been
non-bloody. 

Of note, the patient stated that she was previously constipated
and then took a dose of miralax which preceded the diarrhea. She
also denies sick contacts.

She denies any fevers or chills. She denies headache or vision
changes. No chest pain or vision changes. Abdominal distention 
is
stable. No dysuria.

In the ED, the initial vital signs were:
97.5 HR 97 BP 121/82 R 18 SpO2 96% RA

Laboratory data was notable for:
Normal CBC 
Na 132
AP 159
INR 1.7 Lactate 1.7

The patient received:

___ 19:04 IVF  NS 1000 mL 
___ 19:37 IV Prochlorperazine 10 mg  
___ 00:13 PO/NG Calcium Carbonate 500 mg 
___ 08:44 PO/NG Ondansetron 8 mg 
___ 09:22 PO/NG Rivaroxaban 20 mg  
___ 14:58 IVF  LR at 150 mL/hr 
___ 16:49 PO/NG Ondansetron 8 mg 

Imaging demonstrated:
___ 19:10   Chest (Pa & Lat) 
IMPRESSION:  
 
Persistent moderate left-sided pleural effusion. No superimposed
acute cardiopulmonary process. 

ECG: NSR Rate 89, normal axis and intervals (QTc 432)

Upon arrival to ___, the patient states she is still having
nausea and vomiting but has not had an episode of diarrhea since
this morning.

ROS: 10 point review of systems discussed with patient and
negative unless noted above
 
Past Medical History:
Pancreatic CA, as above
PVT on rivaroxaban
HTN
 
Social History:
___
Family History:
FamHx:
- Father with colon cancer in his ___
- Sister with breast cancer in her ___

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITALS: T 98.6 BP 145/84 HR 96 R 18 SpO2 96 RA  
GENERAL:  Tired, NAD 
HEENT: dry mucous membranes, no lesions or thrush
EYES:  PERRL, anicteric
NECK:  supple
RESP:  CTAB, no increased WOB, no wheezing, rhonchi or crackles
___:  RRR no MRG
GI:  soft, distended, non-tender
EXT:  warm, no edema
SKIN:  dry
NEURO:  CN II-XII intact
ACCESS:  ecchymosis over R POC

DISCHARGE PHYSICAL EXAM:
======================
PHYSICAL EXAM:  
___ 0731 Temp: 98.1 PO BP: 122/78 R Sitting HR: 91 RR: 16 
O2
sat: 97% O2 delivery: RA 
GENERAL: NAD
RESP:  no respiratory distress
___:  regular rate
ABD: distended soft, non-ttp
EXT:  warm, no edema
 
Pertinent Results:
ADMISSION LABS:
=============
___ 05:45PM BLOOD WBC-6.6 RBC-5.35* Hgb-14.9 Hct-45.2* 
MCV-85 MCH-27.9 MCHC-33.0 RDW-13.3 RDWSD-41.1 Plt ___
___ 05:45PM BLOOD Neuts-91* Bands-1 Lymphs-8* Monos-0* 
Eos-0* Baso-0 AbsNeut-6.07 AbsLymp-0.53* AbsMono-0.00* 
AbsEos-0.00* AbsBaso-0.00*
___ 05:45PM BLOOD Glucose-145* UreaN-20 Creat-0.9 Na-132* 
K-4.6 Cl-99 HCO3-20* AnGap-13
___ 05:45PM BLOOD ALT-29 AST-19 AlkPhos-159* TotBili-0.9
___ 05:45PM BLOOD Lipase-38
___ 07:19PM BLOOD Lactate-1.7
___ 01:38PM URINE Color-Yellow Appear-Clear Sp ___
___ 01:38PM URINE Blood-SM* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-2* pH-6.0 Leuks-TR*
___ 01:38PM URINE RBC-11* WBC-10* Bacteri-FEW* Yeast-NONE 
Epi-1
___ 01:38PM URINE CastHy-2*
___ 01:38PM URINE Mucous-FEW*

PERTINENT INTERMITTENT LABS:   ****As of ___
=========================
___ 06:07AM BLOOD Neuts-63.9 ___ Monos-5.1 Eos-1.9 
Baso-0.6 Im ___ AbsNeut-1.01* AbsLymp-0.42* AbsMono-0.08* 
AbsEos-0.03* AbsBaso-0.01
___ 04:40AM BLOOD Neuts-46.6 ___ Monos-9.6 Eos-1.8 
Baso-2.6* Im ___ AbsNeut-0.53* AbsLymp-0.42* AbsMono-0.11* 
AbsEos-0.02* AbsBaso-0.03
___ 07:20PM BLOOD Glucose-164* UreaN-19 Creat-0.9 Na-134* 
K-4.1 Cl-100 HCO3-24 AnGap-10
___ 06:07AM BLOOD Glucose-156* UreaN-16 Creat-0.9 Na-137 
K-4.3 Cl-104 HCO3-24 AnGap-9*

IMAGING:
========
___ 7:10 ___ ___ CHEST (PA & LAT):
Persistent moderate left-sided pleural effusion.  No 
superimposed acute
cardiopulmonary process.

MICROBIOLOGY: ***As of ___
============
___  BCx: NGTD**
___  UCx: NEGATIVE
___ 6:03 pm STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 

   C. difficile PCR (Final ___: 
      POSITIVE.              (Reference Range-Negative). 
         The C. difficile PCR is highly sensitive for toxigenic 
strains of
         C. difficile and detects both C. difficile infection 
(CDI) and
         asymptomatic carriage. Therefore, positive C. diff PCR 
tests
         trigger reflex C. difficile toxin testing, which is 
highly
         specific for CDI. 

   C. difficile Toxin antigen assay (Preliminary):  *******

DISCHARGE LABS:
==============

___ 05:45AM BLOOD WBC-2.7* RBC-4.34 Hgb-12.1 Hct-36.3 
MCV-84 MCH-27.9 MCHC-33.3 RDW-13.5 RDWSD-41.1 Plt ___
___ 05:45AM BLOOD Neuts-53.6 ___ Monos-18.8* 
Eos-0.4* Baso-0.7 Im ___ AbsNeut-1.46* AbsLymp-0.62* 
AbsMono-0.51 AbsEos-0.01* AbsBaso-0.02
___ 07:50AM BLOOD ___
___ 05:45AM BLOOD Glucose-104* UreaN-16 Creat-0.8 Na-133* 
K-4.0 Cl-101 HCO3-22 AnGap-10
___ 06:07AM BLOOD ALT-26 AST-20 AlkPhos-125* TotBili-0.6
___ 05:45AM BLOOD Calcium-8.2* Phos-3.4 Mg-1.9
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
=================
[ ] Home ___ and will need outpatient paracentesis appointment

SUMMARY: 
=========
___ with metastatic pancreatic cancer presented with persistent 
N/V/D after starting C1 of FOLFIRINOX, eight days prior to 
admission, treated with IVF and IV antiemetics, found to be C 
dif PCR positive, treated with IV flagyl and PO vancomycin. 

HOSPITAL COURSE:
===============
#CHEMOTHERAPY RELATED NAUSEA, VOMITING AND DIARRHEA
#MALNUTRITION: 
Patient started FOLFIRONIX eight days prior to admission. 
Reportedly developed N/V/D within 24h after its administration. 
Unfortunately worsened and persisted leading to inability to 
tolerate po intake. She was treated with IV zofran, compazine, 
and IVF. Electrolytes were optimally repleted and she was given 
IV thiamine 200mg x 3 days. She was found to be C. diff positive 
on PCR and was started on PO vancomycin and IV flagyl. The toxin 
c.diff was negative and antibiotics were stopped. Patient GERD 
medications were switched to PPI which greatly improved her 
symptoms.

#CLOSTRIDIUM DIFFICILE INFECTION
Patient found to be PCR positive for C. diff. Given her 
neutropenia, decision was made to initiate treatment while toxin 
results were pending. She was treated with IV flagyl and PO 
vancomycin. Toxin negative. Abx stopped. 

#NEUTROPENIA:
Patient received FOLFIRONIX ___. Prior to chemotherapy had ANC 
>6k. Noted to be 1580 on admission and continued to downtrend. 
Her ANC nadir was 0.18 , she was placed on neutropenic 
precautions. She remained afebrile during admission. Discharge 
WBC/ANC was 2.7/1.6 respectively. 

CHRONIC/STABLE ISSUES:
======================
#PANCREATIC CANCER
#MALIGNANT ASCITES
#SECONDARY MALIGNANCY OF LIVER
#SECONDARY MALIGNANCY OF PERITONEUM:
Recently started FOLFIRINOX ___. Ascites managed with 
intermittent paracentesis. Has h/o biliary obstruction s/p metal 
stent placement into right intrahepatic system ___. Despite 
mild ascites on exam, patient did not have any abdominal pain or 
increased discomfort from baseline. A paracentesis was performed 
while inpatient on ___ held 1 day of rivaroxaban and INR was 
1.6. Her nausea was treated as above. 

#PORTAL VEIN THROMBOSIS: 
LFTs stable on rivaroxaban. H/o PVT ___. Continued home 
rivaroxaban. 

#HYPONATREMIA: RESOLVED
#METABOLIC ACIDOSIS: RESOLVED
Hypovolemic hyponatremia in setting of poor PO intake and 
nausea/vomiting/diarrhea. Non-gap acidosis likely from alkaline 
losses in stool. Both of which resolved with IVF. 

#HCP/CONTACT: Name of health care proxy: ___ 
Relationship: son 
Phone number: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
2. Vitamin D 1000 UNIT PO DAILY 
3. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line 
4. Rivaroxaban 20 mg PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*2 
2.  Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
 
3.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line  
4.  Rivaroxaban 20 mg PO DAILY  
5.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
=================
Chemotherapy induced emesis

SECONDARY DIAGNOSIS:
===================
Metastatic Pancreatic Adenocarcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. Ms. ___,

You came to the hospital because you had persistent nausea, 
vomiting, and diarrhea after receiving your chemotherapy. While 
you were here we treated you with medications and fluids to help 
with your nausea and vomiting. You were started on pantoprazole 
twice daily which helped your symptoms greatly. We treated you 
with antibiotics for a potential GI infection until your stool 
showed negative test results. At that time we stopped your 
antibiotics. Your ANC or neutrophils that fight infection 
started to increase and improve.

You had a paracentesis and had some of the ascites drained from 
your abdomen. Ultimately your symptoms improved, you were able 
to tolerate a regular diet, and you were ready to leave the 
hospital. 

Continue to the rest of your medications as prescribed. Please 
be sure to attend your follow up appointments as written below. 

It was a pleasure taking part in your care. Sincerely,

___ team
 
Followup Instructions:
___